US08802690B2
A solution of sodium nitrite (69 g) in concentrated hydrochloric acid (1.5 L) was added to crude 6-(piperidin-1-ylcarbonyl)pyridin-3-amine at 0 C, and the mixture was stirred for 10 minutes. Urea (20 g) was added, and the mixture was stirred for 15 minutes. Sodium iodide (150 g) was added, and the product was separated by filtration and recrystallized from ethanol to give 5-iodo-2-(piperidin-1-ylcarbonyl)pyridine (yield 23% calculated for methyl 5-nitropyridine-2-carboxylate, 71 g).

reactant | sodium nitrite | 69 g | N(=O)[O-].[Na+]
reactant | 6-(piperidin-1-ylcarbonyl)pyridin-3-amine | N1(CCCCC1)C(=O)C1=CC=C(C=N1)N | C11H15N3O
reactant | Urea | 20 g | NC(=O)N | CH4N2O
reactant | Sodium iodide | 150 g | [I-].[Na+]
solvent | hydrochloric acid | 1.5 L | Cl | ClH
product | 5-iodo-2-(piperidin-1-ylcarbonyl)pyridine | 71 g, yield 23% | IC=1C=CC(=NC1)C(=O)N1CCCCC1 | C11H13IN2O
